US07582773B2
Step 1: Synthesis of [4-(3-Benzyl-1-methyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetic acid methyl ester.
The desired product was prepared using a procedure similar to step 1 of example 4. Thus, 4-(3-benzyl-1-methyl-2-phenyl-1H-indol-5-yl)-phenol (0.140 g, 0.359 mmol) was reacted with K2CO3 (0.065 g, 0.467 mmol) and methyl bromoacetate (0.071 g, 0.467 mmol) in acetone (5 ml) to give the product (0.141 g, 0.305 mmol, 85%) as a glass-like solid. 1H NMR (DMSO-d6) δ 3.62 (s, 3H), 3.70 (s, 3H), 4.04 (s, 2H), 4.81 (s, 2H), 6.97 (d, J=8.9 Hz, 2H), 7.07-7.11 (m, 3H), 7.18 (t, J=7.6 Hz, 2H), 7.41-7.57 (m, 10H); [ESI(+)], m/z 462 (M+H)+.

reactant | 4-(3-benzyl-1-methyl-2-phenyl-1H-indol-5-yl)-phenol | 0.359 mmol, 0.140 g | C(C1=CC=CC=C1)C1=C(N(C2=CC=C(C=C12)C1=CC=C(C=C1)O)C)C1=CC=CC=C1 | C28H23NO
reactant | K2CO3 | 0.467 mmol, 0.065 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl bromoacetate | 0.467 mmol, 0.071 g | BrCC(=O)OC | C3H5BrO2
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | [4-(3-Benzyl-1-methyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetic acid methyl ester | COC(COC1=CC=C(C=C1)C=1C=C2C(=C(N(C2=CC1)C)C1=CC=CC=C1)CC1=CC=CC=C1)=O | C31H27NO3
